US07297463B2
As shown in the following Reaction 1a, 49.01 g of sodium cyanide (NaCN), 70.07 g of water and 50.96 g of ethanol were added into a 500 ml 4-neck flask equipped with a mechanical stir, and the temperature of the solution was elevated to 60° C. to completely dissolve NaCN. To the solution, 87.50 g of 4-chloromethylstyrene was slowly added and the reaction was carried out for 3 hours at the temperature of 60-70° C. After completion of the reaction, the solution was cooled to 40° C., 100 g of diethylether was added to the solution, and the diethylether layer was separated. The separated organic layer was extracted with 300 g of water three times. The water layer was extracted with 50 g of diethylether and the diethylether extract was added to the organic layer. The separated organic layer was dried with magnesium sulfate for one day, and then the organic solvent was removed using an evaporator to obtain 4-cyanomethylstyrene of deep purple color. The yield of the product was 80%.

reactant | sodium cyanide | 49.01 g | [C-]#N.[Na+]
reactant | water | 70.07 g | O | H2O
reactant | ethanol | 50.96 g | C(C)O | C2H6O
reactant | 4-chloromethylstyrene | 87.50 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
solvent | diethylether | 100 g | C(C)OCC | C4H10O
product | 4-cyanomethylstyrene | C(#N)CC1=CC=C(C=C)C=C1 | C10H9N
